### ISSUE TITLE
[Improvement] Monad instance for Contract does not satisfy monad laws

### ISSUE THREAD

**Issue by Th0rgal** [Th0rgal/verity#146]
## Summary

The `Contract` monad instance in `Verity/Core.lean` provides `pure` and `bind` but lacks any proof that the monad laws hold. This is a foundational correctness concern since all contract definitions use `do`-notation via this instance.

## Current Code (`Verity/Core.lean:245-248`)

```lean
instance : Monad Contract where
  pure := pure
  bind := bind
```

## Missing Proofs

The three monad laws are:
1. **Left identity**: `bind (pure a) f = f a`
2. **Right identity**: `bind m pure = m`
3. **Associativity**: `bind (bind m f) g = bind m (fun x => bind (f x) g)`

All three should be provable by unfolding the definitions (they follow from the structure of `ContractResult` pattern matching), but they are not stated or proven anywhere.

## Why This Matters

If the monad laws didn't hold, then `do`-notation rewrites (which Lean performs during elaboration) could change program semantics. In a verification framework, this is a silent trust assumption.

## Recommendation

Add the three monad law proofs as theorems:

```lean
theorem pure_bind (a : α) (f : α → Contract β) :
    bind (pure a) f = f a := by rfl

theorem bind_pure (m : Contract α) :
    bind m pure = m := by
  funext s
  simp [bind, pure]
  cases m s <;> rfl

theorem bind_assoc (m : Contract α) (f : α → Contract β) (g : β → Contract γ) :
    bind (bind m f) g = bind m (fun x => bind (f x) g) := by
  funext s
  simp [bind]
  cases m s <;> rfl
```

These are straightforward proofs that would eliminate this trust assumption.
